US06387919B1
4-[(7-Oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidenemethyl)-amino]-N-pyridin-2-yl-benzenesulfonamide
To a 25 ml round bottom flask was added a stir bar, 246 mg (1.00 mmol) of 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one, 249 mg (1.00 mmol) of sulfapyridine and 10 ml of ethanol. The flask was fitted with a water-cooled reflux condenser, and the mixture was heated to reflux using an oil bath with stirring for 18 h. The reaction was allowed to cool and was filtered. The precipitate was washed with excess ethanol and dried under vacuum to yield 321 mg (71 %) of the title compound: 1H NMR (DMSO-d6): δ 11.9 (br s, 1H), 11.2 (d, 1H), 10.9 (s, 1H), 9.3 (s, 1H), 8.1 (d, 2H), 7.9 (m, 3H), 7.8 (m, 1H), 7.6 (d, 2H), 7.2 (d, 1H), 7.2 (d, 1H), 6.9 (t, 1H); C21H15N5O3S2: APCI−MS m/z 450 (M+H)+.

reactant | 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | 1.00 mmol, 246 mg | C(C)OC=C1C(NC2=CC=C3N=CSC3=C12)=O | C12H10N2O2S
reactant | sulfapyridine | 1.00 mmol, 249 mg | C=1C=CN=C(C1)NS(=O)(=O)C=2C=CC(=CC2)N | C11H11N3O2S
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-[(7-Oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidenemethyl)-amino]-N-pyridin-2-yl-benzenesulfonamide | 321 mg, 71 % | O=C1NC2=CC=C3N=CSC3=C2C1=CNC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1 | C21H15N5O3S2
